US08247401B2
Step C: (1R)-1-[1-Oxido-6-(trifluoromethyl)-3-pyridinyl]ethanamine hydrochloride
To a solution of tert-butyl {(1R)-1-[1-oxido-6-(trifluoromethyl)-3-pyridinyl]ethyl}carbamate (140 mg, 0.457 mmol) in dioxane (2 mL) was added hydrogen chloride (4.0 M in dioxane; 0.343 mL, 1.371 mmol). The reaction mixture was stirred for 4 h. The reaction mixture was concentrated to dryness to give the hydrochloride salt of the title compound (118 mg). MS 207.1 (M+1).

reactant | tert-butyl {(1R)-1-[1-oxido-6-(trifluoromethyl)-3-pyridinyl]ethyl}carbamate | 0.457 mmol, 140 mg | [O-][N+]1=CC(=CC=C1C(F)(F)F)[C@@H](C)NC(OC(C)(C)C)=O | C13H17F3N2O3
reactant | hydrogen chloride | 1.371 mmol, 4.0 M, 0.343 mL | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (1R)-1-[1-Oxido-6-(trifluoromethyl)-3-pyridinyl]ethanamine hydrochloride | 118 mg | Cl.[O-][N+]1=CC(=CC=C1C(F)(F)F)[C@@H](C)N | InChI=1S/C8H9F3N2O.ClH/c1-5(12)6-2-3-7(8(9,10)11)13(14)4-6;/h2-5H,12H2,1H3;1H/t5-;/m1./s1
